US07615642B2
Step D: 2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-amine
Following the same procedure in Example 1, Step G, using N-[2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]acetamide (2.08 g, 6.06 mmol) in 37% HCl (20 mL). Yield: 1.81 g (99%). 1H NMR (400 MHz, CHLOROFORM-D): δ 0.79 (t, J=7.52 Hz, 3 H), 1.42-1.51 (m, 4 H), 1.52 (s, 6 H), 1.84 (q, J=7.42 Hz, 2 H), 2.15-2.37 (m, 1 H), 3.25-3.38 (m, 2 H), 3.59 (s, 2 H), 3.92-4.03 (m, 2 H), 4.12 (d, J=7.42 Hz, 2 H), 6.65 (dd, J=8.50, 2.25 Hz, 1 H), 7.06 (d, J=2.15 Hz, 1 H), 7.10 (d, J=8.01 Hz, 1 H); MS (ESI) (M+H)+=301.98.

reactant | N-[2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]acetamide | 6.06 mmol, 2.08 g | CC(CC)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)NC(C)=O | C20H29N3O2
solvent | HCl | 20 mL | Cl | ClH
product | 2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-amine | CC(CC)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)N | C18H27N3O
